US07728030B2
N-[(1R,2S)-1-[1-(4-Fluorophenyl)-6-methyl-indazol-5-yl]oxy-1-phenyl-propan-2-yl]-2,2-dimethyl-propanamide
Prepared as described in Example 1 using (1R,2S)-1-[1-(4-fluorophenyl)-6-methyl-indazol-5-yl]oxy-1-phenyl-propan-2-amine (50 mg, 0.13 mmol) and pivaloyl chloride (0.065 mL, 0.53 mmol). Yield 53 mg (87%).

reactant | (1R,2S)-1-[1-(4-fluorophenyl)-6-methyl-indazol-5-yl]oxy-1-phenyl-propan-2-amine | 0.13 mmol, 50 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C)O[C@@H]([C@H](C)N)C1=CC=CC=C1 | C23H22FN3O
reactant | pivaloyl chloride | 0.53 mmol, 0.065 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | N-[(1R,2S)-1-[1-(4-Fluorophenyl)-6-methyl-indazol-5-yl]oxy-1-phenyl-propan-2-yl]-2,2-dimethyl-propanamide | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C)O[C@@H]([C@H](C)NC(C(C)(C)C)=O)C1=CC=CC=C1 | C28H30FN3O2
